US06323207B1
Methyl 4-(4-benzyl-1-piperazinyl)-3-trifluoromethyl-benzoate
7 g (31.5 mmol) of methyl 4-fluoro-3-trifluoromethyl-benzoate are dissolved in 60 ml of dry dimethylsulphoxide (DMSO) and combined with 5.55 g (31.5 mmol) of N-benzylpiperazine and 4.35 g (31.5 mmol) of potassium carbonate. The mixture is stirred for 12 hours at 90° C. After cooling, the reaction mixture is poured into 200 ml of water and extracted three times with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over magnesium sulphate and distilled off in vacuo. The residue is chromatographed on silica gel with a mixture of ethyl acetate and n-heptane.

reactant | methyl 4-fluoro-3-trifluoromethyl-benzoate | 31.5 mmol, 7 g | FC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C9H6F4O2
reactant | N-benzylpiperazine | 31.5 mmol, 5.55 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 31.5 mmol, 4.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
product | Methyl 4-(4-benzyl-1-piperazinyl)-3-trifluoromethyl-benzoate | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C20H21F3N2O2
